US05336768
Preparation of (6R-trans)-3-hydroxymethyl-7-[[(1,1-dimethylethoxy)carbonyl]amino]-8-oxo-5-thia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylic acid
A solution of 19.2 (0.48 mol) of sodium hydroxide in 240 ml of water was stirred and cooled to -5° C. in a bath of dry-ice and acetone. All at once, 54.4g (0.20 mol) of 7-aminocephalosporanic acid was added. The reaction temperature was controlled at -5° to 0° C. by raising and lowering the bath as necessary, until the initial heat of reaction was dissipated. Then the cold bath was replaced with an ice bath and stirring was continued at 0°-5° C. for the remainder of a total reaction time of 30 minutes. The pH was adjusted to 9-9.5 by addition of approximately 2 mL of 6 N hydrochloric acid. Dioxane (700 mL) was added followed by a solution of 87.5 g (0.40 mol) of di-tert-butyl dicarbonate in 200 mL of dioxane, added all at once. Sodium bicarbonate (33.6 g, 0.40 mol) was added, and the mixture stirred for 70 hours. Ethyl acetate (750 mL) was added, the layers were separated, and the organic phase was extracted with water (2×125 mL). The combined aqueous phase and extracts was washed with ethyl acetate (2×300 mL). Then the aqueous solution was layered with 750 mL of ethyl acetate, and 80 mL of 6 N HCl was added to bring the pH to 2.5. A precipitate formed which was removed by filtration through a bed of Hyflow. The aqueous phase was separated and extracted with 300 mL of ethyl acetate. The organic extracts were combined, washed with 300 mL of water, dried (Na2SO4), and concentrated under reduced pressure to about 100 mL of volume. As the volume was reduced, solid material began to precipitate. The precipitate was filtered and washed with ether. The product was dried under reduced pressure; 24.1 g (36%) of the title compound was obtained. This was used directly in the next Example.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | dry-ice | C(=O)=O | CO2
reactant | 7-aminocephalosporanic acid | 0.20 mol, 54.4g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | hydrochloric acid | 6 N, approximately 2 mL | Cl | ClH
reactant | di-tert-butyl dicarbonate | 0.40 mol, 87.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Sodium bicarbonate | 0.40 mol, 33.6 g | C([O-])(O)=O.[Na+]
solvent | water | 240 ml | O | H2O
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | Dioxane | 700 mL | O1CCOCC1 | C4H8O2
solvent | Ethyl acetate | 750 mL | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
product | (6R-trans)-3-hydroxymethyl-7-[[(1,1-dimethylethoxy)carbonyl]amino]-8-oxo-5-thia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylic acid | 24.1 g, 36% | OCC1=C(N2C([C@H]([C@H]2SC1)NC(=O)OC(C)(C)C)=O)C(=O)O | C13H18N2O6S
